US09227978B2
tert-Butyl 4-(2-(4,5-dichloro-2-ethylphenylamino)acetyl)piperazine-1-carboxylate
To a stirred mixture of 2-(4,5-dichloro-2-ethylphenylamino)acetic acid (100 mg, 0.403 mmol), Et3N (122 mg, 1.21 mmol) in DCM (3 mL) at 0° C., EDCI.HCl (123 mg, 0.604 mmol) and HOBt (8 2 mg, 0.604 mmol) were added. The resulting mixture was stirred at 0° C. for 30 min, and then tert-butyl piperazine-1-carboxylate (90 mg, 0.483 mmol) was added. The mixture was stirred at room temperature for 16 h and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=5:1) to afford the desired product (120 mg, 71.5% yield) as an off-white solid. ESI-MS m/z: 414.3 [M−H]−.

reactant | 2-(4,5-dichloro-2-ethylphenylamino)acetic acid | 0.403 mmol, 100 mg | ClC1=CC(=C(C=C1Cl)NCC(=O)O)CC | C10H11Cl2NO2
reactant | Et3N | 1.21 mmol, 122 mg | CCN(CC)CC | C6H15N
reactant | EDCI.HCl | 0.604 mmol, 123 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.604 mmol, 2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tert-butyl piperazine-1-carboxylate | 0.483 mmol, 90 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(2-(4,5-dichloro-2-ethylphenylamino)acetyl)piperazine-1-carboxylate | 120 mg, 71.5% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)CC | C19H27Cl2N3O3
